US07790747B2
To a solution of 1,4-dioxa-8-azaspiro[4.5]decane (8.00 g, 55.9 mmol) in MeOH (70 ml) was added crotononitrile (18.74 g, 279 mol). The mixture was heated at 50° C. for 16 hours. MeOH and excess crotononitrile were removed by evaporation under reduced pressure to give 3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyronitrile (11.75 g, 100%) as a pale yellow oil.

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 55.9 mmol, 8.00 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | crotononitrile | 279 mol, 18.74 g | C(\C=C\C)#N | C4H5N
solvent | MeOH | 70 ml | CO | CH4O
product | 3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyronitrile | 11.75 g, 100% | O1CCOC12CCN(CC2)C(CC#N)C | C11H18N2O2
